US05252744
DMDMH is a formaldehyde donor which is the diformylated product of DMH and formaldehyde. MDMH is first formed as an intermediate. MDMH, itself, is a formaldehyde scavenger containing about 19% by weight of bound, but available, formaldehyde. Subsequent reaction of MDMH with formaldehyde yields DMDMH which theoretically contains 31.9% of bound but available, formaldehyde.

reactant | DMDMH | CC1(C(=O)N(C(=O)N1CO)CO)C | C7H12N2O4
reactant | formaldehyde | C=O | CH2O
product | MDMH | CC1(C(=O)NC(=O)N1CO)C | C6H10N2O3
